US04994074
COPLYOMER OF ε-CAPROLACTONE/GLYCOLIDE/GLYCOLIC ACID AT 0.90/0.05/0.10 MOLE RATIO
A flame dried, 250 ml, round bottom single neck flask is charged with 102.73 g (0.9 mole) of ε-caprolactone, 5.80 g (0.05 mole) of glycolide, 7.61 g (0.10 mole) of glycolic acid, and 0.121 milliliters of stannous octoate (0.33 molar in toluene). The flask is fitted with a flame dried mechanical stirrer. The reactor is purged with nitrogen three times before venting with nitrogen. The reaction mixture is heated to 160° C. and maintained at this temperature for 24 hours. The copolymer is isolated, characterized, and tested for absorption. The results are reported in Table 1.

reactant | ε-caprolactone | 0.9 mole, 102.73 g | C1(CCCCCO1)=O | C6H10O2
reactant | glycolide | 0.05 mole, 5.80 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | glycolic acid | 0.10 mole, 7.61 g | C(CO)(=O)O | C2H4O3
reactant | stannous octoate | 0.33 molar, 0.121 milliliters | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | ε-CAPROLACTONE GLYCOLIDE GLYCOLIC ACID | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1.C(CO)(=O)O | InChI=1S/C6H10O2.C4H4O4.C2H4O3/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3;3-1-2(4)5/h1-5H2;1-2H2;3H,1H2,(H,4,5)
